Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
No Allergies/ADRs on File
 
Attending: ___.
 
Chief Complaint:
s/p fall
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
This patient is a ___ year old female who BIBEMS complains of 
head injury.
History as per EMS as well as patient. She apparently fell 
backwards down
7 steps. She had half a glass of wine after dinner. She had LOC. 
She had
repetitive questioning. She does not recall events of why she 
fell.
 
Past Medical History:
Hypercholesterolemia
 
Social History:
___
Family History:
noncontributory
 
Physical Exam:
Admission Physical Examination
HR: 83 BP: 181/109 Resp: 22 O2 Sat: 98% Normal
Constitutional: Comfortable
Head / Eyes: Left occipital hematoma, no lacerations
ENT / Neck: No C-spine tenderness
Chest/Resp: Clear to auscultation, no chest wall tenderness
Cardiovascular: Regular Rate and Rhythm
___
Attending ___ (V1)
Page 2 of 3 ___
___ 3]
___ / F / ___
Printable Copy Generated on ___ 07:15
GI / Abdominal: Nontender, Soft
Musc/Extr/Back: Full range of motion of both hips
Skin: Warm and dry
Neuro: Normal cranial nerve and extremity motor exam
Psych: Awake, alert, oriented x3
___: No petechiae

Discharge Physical Exam:
VS: 98.0, 168/89, 74, 18, 97 RA
Gen: A&O x3. sitting up in bed in NAD
CV: HRR
Pulm: LS ctab
Abd: soft NT/ND
Ext: WWP no edema 
 
Pertinent Results:
___ 07:44AM BLOOD WBC-5.6 RBC-4.17 Hgb-12.5 Hct-37.9 MCV-91 
MCH-30.0 MCHC-33.0 RDW-13.3 RDWSD-44.6 Plt ___
___ 07:35AM BLOOD WBC-7.1 RBC-4.01 Hgb-12.0 Hct-36.2 MCV-90 
MCH-29.9 MCHC-33.1 RDW-12.9 RDWSD-42.5 Plt ___
___ 07:57PM BLOOD WBC-8.6 RBC-4.01 Hgb-12.1 Hct-35.3 MCV-88 
MCH-30.2 MCHC-34.3 RDW-12.6 RDWSD-40.8 Plt ___
___ 07:44AM BLOOD Glucose-91 UreaN-9 Creat-0.5 Na-136 K-4.0 
Cl-97 HCO3-25 AnGap-14
___ 07:35AM BLOOD Glucose-95 UreaN-7 Creat-0.6 Na-129* 
K-4.0 Cl-93* HCO3-23 AnGap-13

Radiology: 
Lspine ___: IMPRESSION:  There are five non-rib-bearing lumbar
type vertebral bodies.  No compression 
deformities are seen.  There is moderate anterolisthesis of L4
over L5.There are severe degenerative changes at L3-L4 with loss
of disc height and spurring.  There are mild degenerative 
changes
of the hip joints and the inferior sacroiliac joints. 

trauma ___ IMPRESSION:   
1. No acute cardiopulmonary process. 
2. No acute fracture or dislocation in the pelvis 

cspine ___: IMPRESSION:   
1. No evidence of acute fracture or prevertebral soft tissue
swelling. 
2. Moderate cervical spondylosis. 
3. Multilevel mild subluxations, likely degenerative in 
etiology.

CT head ___: IMPRESSION: 
1. Left posterior parietal soft tissue swelling without evidence
of underlying calvarial fracture. 
2. No acute intracranial abnormality. 

 
Brief Hospital Course:
The patient was admitted to the ACS/Trauma Service on  for 
evaluation and treatment after a mechanical fall with +LOC. The 
patient was hemodynamically stable but was post-concussive. 
Imaging was only notable for left posterior parietal soft tissue 
swelling without evidence of underlying calvarial fracture. She 
was complaining of low back pain, which she has chronically. The 
patient had a carotid US which showed no stenosis. 
Echocardiogram was scheduled for outpatient. Her telemetry 
monitoring and labs were unremarkable. ___ and OT evaluated the 
patient and she was cleared for home with outpatient ___, and 
follow-up in Cognitive Neurology.

Pain was well controlled. The patient voided without problem. 
During this hospitalization, the patient ambulated early and 
frequently, was adherent with respiratory toilet and incentive 
spirometry, and actively participated in the plan of ___. The 
patient received subcutaneous heparin and venodyne boots were 
used during this stay.

At the time of discharge, the patient was doing well, afebrile 
with stable vital signs. The patient was tolerating a regular 
diet, ambulating, voiding without assistance, and pain was well 
controlled.  The patient was discharged home with services. The 
patient received discharge teaching and follow-up instructions 
with understanding verbalized and agreement with the discharge 
plan.

 
Medications on Admission:
Senna 8.6 mg PO BID  
Atorvastatin 10 mg PO QPM  
Citalopram 10 mg PO DAILY  
Losartan Potassium 100 mg PO DAILY  
TraZODone 50 mg PO QHS:PRN insomnia 
 
Discharge Medications:
1.  Acetaminophen 1000 mg PO Q6H 
RX *acetaminophen 500 mg 2 tablet(s) by mouth every six (6) 
hours Disp #*20 Tablet Refills:*0 
2.  OxyCODONE (Immediate Release) 2.5 mg PO Q4H:PRN pain 
RX *oxycodone 5 mg 0.5 (One half) tablet(s) by mouth every four 
(4) hours Disp #*3 Tablet Refills:*0 
3.  Polyethylene Glycol 17 g PO DAILY 
RX *polyethylene glycol 3350 17 gram 17 g by mouth once a day 
Disp #*10 Packet Refills:*0 
4.  Senna 8.6 mg PO BID  
5.  Atorvastatin 10 mg PO QPM  
6.  Citalopram 10 mg PO DAILY  
7.  Losartan Potassium 100 mg PO DAILY  
8.  TraZODone 50 mg PO QHS:PRN insomnia  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Mechanical Fall

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
You were admitted to ___ after a mechanical fall. You had CT 
scan images taken of your head and cervical spine, and x-rays 
taken of your chest and lower back. There were chronic / 
degenerative changes noted but no acute traumatic injuries. You 
had a carotid ultrasound which showed no abnormalities, and an 
echocardiogram which was normal.  You were seen by ___ and OT and 
are cleared for discharge home with outpatient ___.

Please call your doctor or nurse practitioner or return to the 
Emergency Department for any of the following:
*You experience new chest pain, pressure, squeezing or 
tightness.
*New or worsening cough, shortness of breath, or wheeze.
*If you are vomiting and cannot keep down fluids or your 
medications.
*You are getting dehydrated due to continued vomiting, diarrhea, 
or other reasons. Signs of dehydration include dry mouth, rapid 
heartbeat, or feeling dizzy or faint when standing.
*You see blood or dark/black material when you vomit or have a 
bowel movement.
*You experience burning when you urinate, have blood in your 
urine, or experience a discharge.
*Your pain in not improving within ___ hours or is not gone 
within 24 hours. Call or return immediately if your pain is 
getting worse or changes location or moving to your chest or 
back.
*You have shaking chills, or fever greater than 101.5 degrees 
Fahrenheit or 38 degrees Celsius.
*Any change in your symptoms, or any new symptoms that concern 
you.

Please resume all regular home medications, unless specifically 
advised not to take a particular medication. Also, please take 
any new medications as prescribed.

Please get plenty of rest, continue to ambulate several times 
per day, and drink adequate amounts of fluids. 
 
Followup Instructions:
___